US08475937B2
The hydrosilylation reaction of Example 1 was repeated using 4.5 g of 2-allyl-5-methylthiophene in place of 2-allylthiophene, 2.5 g of anhydrous toluene, 5.0 g of trichlorosilane, and 50 mg of Platinum Catalyst. 2-(3-Trichlorosilylpropyl)-5-methylthiophene was obtained as a colorless liquid: 1H NMR (CDCl3) δ 6.60 (m, 2H); 2.88 (t, 2H, J=7.2 Hz); 2.47 (s, 3H); 1.95 (m, 2H); 1.47 (m, 2H).

reactant | 2-allyl-5-methylthiophene | 4.5 g | C(C=C)C=1SC(=CC1)C | C8H10S
reactant | trichlorosilane | 5.0 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | Platinum | 50 mg | [Pt] | Pt
solvent | toluene | 2.5 g | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Trichlorosilylpropyl)-5-methylthiophene | Cl[Si](CCCC=1SC(=CC1)C)(Cl)Cl | C8H11Cl3SSi
